* LOCAL NGSPICE COUNTERPART; NOT A CADENCE RUN
.lib "/foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.temp 27
.options reltol=1e-5 abstol=1e-12 vntol=1e-7
.subckt p1b_ota_legacy_r4 VDD VSS VINP VINN VOUT VBP
XM8 VBP VBP VDD VDD sky130_fd_pr__pfet_01v8 w=7.22 l=0.8 as=1.9133 ad=1.9133 ps=14.97 pd=14.97 nf=1 mult=1
XM9 VBN VBP VDD VDD sky130_fd_pr__pfet_01v8 w=7.22 l=0.8 as=1.9133 ad=1.9133 ps=14.97 pd=14.97 nf=1 mult=1
XM10 VBN VBN VSS VSS sky130_fd_pr__nfet_01v8 w=8.09 l=0.8 as=2.14385 ad=2.14385 ps=16.71 pd=16.71 nf=1 mult=1
XM1 NMIR VINN TAIL VSS sky130_fd_pr__nfet_01v8 w=16.84 l=0.5 as=4.4626 ad=4.4626 ps=34.21 pd=34.21 nf=1 mult=1
XM2 VX VINP TAIL VSS sky130_fd_pr__nfet_01v8 w=16.84 l=0.5 as=4.4626 ad=4.4626 ps=34.21 pd=34.21 nf=1 mult=1
XM3A NMIR NMIR VDD VDD sky130_fd_pr__pfet_01v8 w=25 l=0.5 as=6.625 ad=6.625 ps=50.53 pd=50.53 nf=1 mult=1
XM3B NMIR NMIR VDD VDD sky130_fd_pr__pfet_01v8 w=25 l=0.5 as=6.625 ad=6.625 ps=50.53 pd=50.53 nf=1 mult=1
XM4A VX NMIR VDD VDD sky130_fd_pr__pfet_01v8 w=25 l=0.5 as=6.625 ad=6.625 ps=50.53 pd=50.53 nf=1 mult=1
XM4B VX NMIR VDD VDD sky130_fd_pr__pfet_01v8 w=25 l=0.5 as=6.625 ad=6.625 ps=50.53 pd=50.53 nf=1 mult=1
XM5 TAIL VBN VSS VSS sky130_fd_pr__nfet_01v8 w=25.88 l=0.8 as=6.8582 ad=6.8582 ps=52.29 pd=52.29 nf=1 mult=1
XM6 VOUT VX VSS VSS sky130_fd_pr__nfet_01v8 w=8.84 l=0.5 as=2.3426 ad=2.3426 ps=18.21 pd=18.21 nf=1 mult=1
XM7A VOUT VBP VDD VDD sky130_fd_pr__pfet_01v8 w=36.1 l=0.8 as=9.5665 ad=9.5665 ps=72.73 pd=72.73 nf=1 mult=1
XM7B VOUT VBP VDD VDD sky130_fd_pr__pfet_01v8 w=36.1 l=0.8 as=9.5665 ad=9.5665 ps=72.73 pd=72.73 nf=1 mult=1
RZ1 VX NCC 2k
CC1 NCC VOUT 3p
.ends p1b_ota_legacy_r4
VSSSUP VSS 0 DC 0 AC 0 0
VDD VDD VSS DC 1.8 AC 0 0
IREF VBP VSS 9.999999999999999e-06
RLOAD VOUT VSS 100000
CLOAD VOUT VSS 5e-12
XOTA VDD VSS VINP VINN VOUT VBP p1b_ota_legacy_r4
VINP VINP VSS DC 0.9 AC 0.5 0
VINN VINN VSS DC 0.9 AC 0.5 180
.control
set noaskquit
set wr_singlescale
set wr_vecnames
set numdgt=15
op
wrdata op.tsv v(VDD) v(VSS) v(VINP) v(VOUT) v(VBP) v(VINN) i(VDD) @m.xota.xm8.msky130_fd_pr__pfet_01v8[id] @m.xota.xm8.msky130_fd_pr__pfet_01v8[gm] @m.xota.xm8.msky130_fd_pr__pfet_01v8[gds] @m.xota.xm8.msky130_fd_pr__pfet_01v8[vgs] @m.xota.xm8.msky130_fd_pr__pfet_01v8[vds] @m.xota.xm8.msky130_fd_pr__pfet_01v8[vdsat] @m.xota.xm9.msky130_fd_pr__pfet_01v8[id] @m.xota.xm9.msky130_fd_pr__pfet_01v8[gm] @m.xota.xm9.msky130_fd_pr__pfet_01v8[gds] @m.xota.xm9.msky130_fd_pr__pfet_01v8[vgs] @m.xota.xm9.msky130_fd_pr__pfet_01v8[vds] @m.xota.xm9.msky130_fd_pr__pfet_01v8[vdsat] @m.xota.xm10.msky130_fd_pr__nfet_01v8[id] @m.xota.xm10.msky130_fd_pr__nfet_01v8[gm] @m.xota.xm10.msky130_fd_pr__nfet_01v8[gds] @m.xota.xm10.msky130_fd_pr__nfet_01v8[vgs] @m.xota.xm10.msky130_fd_pr__nfet_01v8[vds] @m.xota.xm10.msky130_fd_pr__nfet_01v8[vdsat] @m.xota.xm1.msky130_fd_pr__nfet_01v8[id] @m.xota.xm1.msky130_fd_pr__nfet_01v8[gm] @m.xota.xm1.msky130_fd_pr__nfet_01v8[gds] @m.xota.xm1.msky130_fd_pr__nfet_01v8[vgs] @m.xota.xm1.msky130_fd_pr__nfet_01v8[vds] @m.xota.xm1.msky130_fd_pr__nfet_01v8[vdsat] @m.xota.xm2.msky130_fd_pr__nfet_01v8[id] @m.xota.xm2.msky130_fd_pr__nfet_01v8[gm] @m.xota.xm2.msky130_fd_pr__nfet_01v8[gds] @m.xota.xm2.msky130_fd_pr__nfet_01v8[vgs] @m.xota.xm2.msky130_fd_pr__nfet_01v8[vds] @m.xota.xm2.msky130_fd_pr__nfet_01v8[vdsat] @m.xota.xm3a.msky130_fd_pr__pfet_01v8[id] @m.xota.xm3a.msky130_fd_pr__pfet_01v8[gm] @m.xota.xm3a.msky130_fd_pr__pfet_01v8[gds] @m.xota.xm3a.msky130_fd_pr__pfet_01v8[vgs] @m.xota.xm3a.msky130_fd_pr__pfet_01v8[vds] @m.xota.xm3a.msky130_fd_pr__pfet_01v8[vdsat] @m.xota.xm3b.msky130_fd_pr__pfet_01v8[id] @m.xota.xm3b.msky130_fd_pr__pfet_01v8[gm] @m.xota.xm3b.msky130_fd_pr__pfet_01v8[gds] @m.xota.xm3b.msky130_fd_pr__pfet_01v8[vgs] @m.xota.xm3b.msky130_fd_pr__pfet_01v8[vds] @m.xota.xm3b.msky130_fd_pr__pfet_01v8[vdsat] @m.xota.xm4a.msky130_fd_pr__pfet_01v8[id] @m.xota.xm4a.msky130_fd_pr__pfet_01v8[gm] @m.xota.xm4a.msky130_fd_pr__pfet_01v8[gds] @m.xota.xm4a.msky130_fd_pr__pfet_01v8[vgs] @m.xota.xm4a.msky130_fd_pr__pfet_01v8[vds] @m.xota.xm4a.msky130_fd_pr__pfet_01v8[vdsat] @m.xota.xm4b.msky130_fd_pr__pfet_01v8[id] @m.xota.xm4b.msky130_fd_pr__pfet_01v8[gm] @m.xota.xm4b.msky130_fd_pr__pfet_01v8[gds] @m.xota.xm4b.msky130_fd_pr__pfet_01v8[vgs] @m.xota.xm4b.msky130_fd_pr__pfet_01v8[vds] @m.xota.xm4b.msky130_fd_pr__pfet_01v8[vdsat] @m.xota.xm5.msky130_fd_pr__nfet_01v8[id] @m.xota.xm5.msky130_fd_pr__nfet_01v8[gm] @m.xota.xm5.msky130_fd_pr__nfet_01v8[gds] @m.xota.xm5.msky130_fd_pr__nfet_01v8[vgs] @m.xota.xm5.msky130_fd_pr__nfet_01v8[vds] @m.xota.xm5.msky130_fd_pr__nfet_01v8[vdsat] @m.xota.xm6.msky130_fd_pr__nfet_01v8[id] @m.xota.xm6.msky130_fd_pr__nfet_01v8[gm] @m.xota.xm6.msky130_fd_pr__nfet_01v8[gds] @m.xota.xm6.msky130_fd_pr__nfet_01v8[vgs] @m.xota.xm6.msky130_fd_pr__nfet_01v8[vds] @m.xota.xm6.msky130_fd_pr__nfet_01v8[vdsat] @m.xota.xm7a.msky130_fd_pr__pfet_01v8[id] @m.xota.xm7a.msky130_fd_pr__pfet_01v8[gm] @m.xota.xm7a.msky130_fd_pr__pfet_01v8[gds] @m.xota.xm7a.msky130_fd_pr__pfet_01v8[vgs] @m.xota.xm7a.msky130_fd_pr__pfet_01v8[vds] @m.xota.xm7a.msky130_fd_pr__pfet_01v8[vdsat] @m.xota.xm7b.msky130_fd_pr__pfet_01v8[id] @m.xota.xm7b.msky130_fd_pr__pfet_01v8[gm] @m.xota.xm7b.msky130_fd_pr__pfet_01v8[gds] @m.xota.xm7b.msky130_fd_pr__pfet_01v8[vgs] @m.xota.xm7b.msky130_fd_pr__pfet_01v8[vds] @m.xota.xm7b.msky130_fd_pr__pfet_01v8[vdsat]
ac dec 120 1 1G
let r_VOUT=real(v(VOUT))
let i_VOUT=imag(v(VOUT))
wrdata VOUT.tsv r_VOUT i_VOUT
let r_VINP=real(v(VINP))
let i_VINP=imag(v(VINP))
wrdata VINP.tsv r_VINP i_VINP
let r_VINN=real(v(VINN))
let i_VINN=imag(v(VINN))
wrdata VINN.tsv r_VINN i_VINN
let r_VDD=real(v(VDD))
let i_VDD=imag(v(VDD))
wrdata VDD.tsv r_VDD i_VDD
let r_VSS=real(v(VSS))
let i_VSS=imag(v(VSS))
wrdata VSS.tsv r_VSS i_VSS
echo LOCAL_ANALYSIS_FINISHED
quit
.endc
.end
